US04327102
Pentafluorothiophenol (5 g) was added to a solution of sodium hydroxide (2.0 g) in ethanol (50 ml) and the resulting solution was treated with a solution of 2-picolyl chloride, hydrochloride (4.1 g) in ethanol (25 ml). The mixture was stirred at ambient temperature for 4 hours, filtered through Kieselghur and the solvent removed by evaporation. The residue was converted into the hydrochloride with ethereal HCl solution and this was recrystallised from acetone-ether to give 2-(((pentafluorophenyl)thio)methyl)pyridine, hydrochloride (5.0 g) mp 157°-8° C. (Found: C,44.0; H,2.4; N,4.0; C12H6F5NS.HCl requires C,44.0; H,2.15; N,4.3%).

reactant | Pentafluorothiophenol | 5 g | FC1=C(C(=C(C(=C1S)F)F)F)F | C6HF5S
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
reactant | 2-picolyl chloride, hydrochloride | 4.1 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(((pentafluorophenyl)thio)methyl)pyridine, hydrochloride | 5.0 g, 4.3% | Cl.FC1=C(C(=C(C(=C1SCC1=NC=CC=C1)F)F)F)F | InChI=1S/C12H6F5NS.ClH/c13-7-8(14)10(16)12(11(17)9(7)15)19-5-6-3-1-2-4-18-6;/h1-4H,5H2;1H
